US04031219
a. 4,4-Dimethyl-2-(4-aminobutyl)-1,2,3,4-tetrahydro-isoquinoline-1,3-dione
2.56 gm of 4,4-dimethyl-2-(3-cyano-propyl)-1,2,3,4-tetrahydro-isoquinoline-1,3-dione prepared from 4,4-dimethyl-1,2,3,4-tetrahydro-isoquinoline-1,3-dione and 4-chlorobutyric acid nitrile) were dissolved in 50 ml of methanolic ammonia, and the solution was hydrogenated in the presence of 1 gm of Raney nickel at 50° C and 5 atmospheres pressure for 2 hours. The reaction mixture was then diluted with water, acidified and extracted with chloroform. The aqueous phase was made alkaline, extracted with chloroform, and the chloroform extract was evaporated. The residue was used as the starting compound in the following step without purification.

reactant | 4,4-dimethyl-2-(3-cyano-propyl)-1,2,3,4-tetrahydro-isoquinoline-1,3-dione | 2.56 gm | CC1(C(N(C(C2=CC=CC=C12)=O)CCCC#N)=O)C | C15H16N2O2
reactant | 4,4-dimethyl-1,2,3,4-tetrahydro-isoquinoline-1,3-dione | CC1(C(NC(C2=CC=CC=C12)=O)=O)C | C11H11NO2
solvent | ammonia | 50 ml | N | H3N
catalyst | Raney nickel | 1 gm | [Ni] | Ni
solvent | water | O | H2O
product | 4,4-Dimethyl-2-(4-aminobutyl)-1,2,3,4-tetrahydro-isoquinoline-1,3-dione | CC1(C(N(C(C2=CC=CC=C12)=O)CCCCN)=O)C | C15H20N2O2
